US07371869B2
To a solution of 2-((S)-2-{(R)-2-tert-butoxycarbonylamino-2-[4-((S)-2,2-dimethyl-[1,3]dioxolan4-ylmethoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester (170 mg, 0.25 mmol) in dichloromethane (2.0 mL) was added trifluoroacetic acid (0.5 mL, 6.5 mmol) at 0° C. The reaction was warmed to room temperature and stirred for 4 hours. The solvent was removed under vacuum and the residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous layer was extracted with ethyl acetate and the extracts were combined, washed with brine and dried over sodium sulfate to give 2-((S)-2-{(R)-2-amino-2-[4-((R)-2,3-dihydroxy-propoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester as a foam (120 mg, 90%).

reactant | 2-((S)-2-{(R)-2-tert-butoxycarbonylamino-2-[4-((S)-2,2-dimethyl-[1,3]dioxolan4-ylmethoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | 0.25 mmol, 170 mg | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC([C@@H](C1=CC=C(C=C1)OC[C@@H]1OC(OC1)(C)C)NC(=O)OC(C)(C)C)=O)=O | C33H40N4O9S
reactant | trifluoroacetic acid | 6.5 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 2-((S)-2-{(R)-2-amino-2-[4-((R)-2,3-dihydroxy-propoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | 120 mg, 90% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC([C@@H](C1=CC=C(C=C1)OC[C@@H](CO)O)N)=O)=O | C25H28N4O7S
